US07547691B2
2-{5-Chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-7-hydroxybenzo[b]thiophene-4-carboxylic acid cyclopropylamide
To a solution of 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-7-methoxybenzo[b]thiophene-4-carboxylic acid cyclopropylamide (500 mg, 0.970 mmol) and ethanethiol (0.718 mL, 9.71 mmol) in dry DMF (10 mL) is added in one portion sodium hydride (388 mg, 9.71 mmol) at 0° C. The mixture is stirred for 5 minutes and heated to 110° C. in a preheated oil bath for 10 minutes. The mixture is cooled to room temperature and a solution of HCl (12%, 3.5 mL) is added. The mixture is diluted with water (100 mL) and concentrated. The residue is diluted with MeOH and filtered off. The filtrate is purified on silica gel, eluting with dichloromethane in MeOH 90:10 to 60:40, to give the title compound as a yellow solid (116 mg, 24% yield). ES+(m/z) 501 (35Cl) and 503 (37Cl) [M+H].

reactant | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-7-methoxybenzo[b]thiophene-4-carboxylic acid cyclopropylamide | 0.970 mmol, 500 mg | C1(CC1)NC(=O)C1=CC=C(C=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C)OC | C25H31ClN6O2S
reactant | ethanethiol | 9.71 mmol, 0.718 mL | C(C)S | C2H6S
reactant | sodium hydride | 9.71 mmol, 388 mg | [H-].[Na+]
reactant | HCl | 3.5 mL | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-{5-Chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-7-hydroxybenzo[b]thiophene-4-carboxylic acid cyclopropylamide | 116 mg, 24% yield | C1(CC1)NC(=O)C1=CC=C(C=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C)O | C24H29ClN6O2S
